### PR TITLE
[chore] Remaining PR comments 10.1.4

### PR DESCRIPTION
**Pull request by JasperMS**
From PR #325.

### CODE REVIEW

File: Carleson/TwoSidedCarleson/NontangentialOperator.lean [hunk 1]
```diff
@@ -746,10 +746,9 @@ theorem cotlar_set_F₂ (ha : 4 ≤ a) (hr : 0 < r) (hR : r ≤ R) [IsOneSidedKe
       rw [indicator_ae_eq_zero, inter_comm, ← Measure.restrict_apply' measurableSet_ball,
         Measure.restrict_restrict measurableSet_ball, ← bot_eq_zero, ← le_bot_iff]
       apply le_trans (Measure.restrict_mono_set (t := ball x (R / 2)) volume inter_subset_left _)
-      rw [le_bot_iff, bot_eq_zero]
+      rw [le_bot_iff, bot_eq_zero, ← compl_compl (support _), ← mem_ae_iff]
       filter_upwards [gzero]
       intro y hy
```
Comment (grunweg) [inline Carleson/TwoSidedCarleson/NontangentialOperator.lean:751]: I think you can shorten this by one more line (relatively sure, but untested):
```suggestion
      filter_upwards [gzero] with y hy

**Comment by grunweg** [comment]
Thanks! I have one minor suggestion for improvement - and will otherwise merge this soon. (Unless Floris merges it first, that is.)

**Comment by JasperMS** [comment]
Thanks for the suggestion! I applied it at multiple places.

**Comment by grunweg** [comment]
Thanks! Then let's merge this!
